US07238689B2
A solution of 7.2 g (37.0 mmoles) of 5-chloro-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboaldehyde dissolved in 100 ml of methanol was cooled to 0° C. Thereto was gradually added 2.1 g (55.5 mmoles) of sodium borohydride. The mixture was stirred at room temperature for 3 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 3.8 g (yield: 52.1%) of (5-chloro-3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanol.

reactant | 5-chloro-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboaldehyde | 37.0 mmoles, 7.2 g | ClC1=C(C(=NN1C)C(F)F)C=O | C6H5ClF2N2O
reactant | sodium borohydride | 55.5 mmoles, 2.1 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | (5-chloro-3-difluoromethyl-1-methyl-1H-pyrazol-4-yl)-methanol | 3.8 g, yield: 52.1% | ClC1=C(C(=NN1C)C(F)F)CO | C6H7ClF2N2O
